US07816558B2
6 ml of aqueous 2 M sodium carbonate solution and 70 mg of tetrakistriphenylphosphine palladium were added to a toluene (15 ml) solution of 450 mg of (3-cyano-4-pyridin-3-ylphenyl)boronic acid and 412 mg of 2-chloroisonicotinic acid, and in an argon atmosphere, this was heated at 100° C. for 2 hours. 3 ml of ethanol was added, followed by further heating at 100° C. for 1 hour. Water was added to the reaction mixture, followed by extraction with chloroform. The organic layer was washed with brine, dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=99:1 to 93:7) to obtain 127 mg of ethyl 2-(3-cyano-4-pyridin-3-ylphenyl)isonicotinate. F: 330.

reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
reactant | (3-cyano-4-pyridin-3-ylphenyl)boronic acid | 450 mg | C(#N)C=1C=C(C=CC1C=1C=NC=CC1)B(O)O | C12H9BN2O2
reactant | 2-chloroisonicotinic acid | 412 mg | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
solvent | Water | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | ethyl 2-(3-cyano-4-pyridin-3-ylphenyl)isonicotinate | 127 mg | C(#N)C=1C=C(C=CC1C=1C=NC=CC1)C=1C=C(C(=O)OCC)C=CN1 | C20H15N3O2
